US08293913B2
0.157 g of 8-((3aS,6aS)-1-benzylhexahydropyrrolo[3,4-b]pyrrol-5(1H)-yl)-3-(3-fluorophenylsulfonyl)quinoline were prepared by analogy to the method of Example 27 by coupling of 3-(3-fluorophenylsulfonyl)-8-iodoquinoline with (3aS,6aS)-1-benzyloctahydropyrrolo[3,4-b]pyrrole

reactant | 3-(3-fluorophenylsulfonyl)-8-iodoquinoline | FC=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)I | C15H9FINO2S
reactant | (3aS,6aS)-1-benzyloctahydropyrrolo[3,4-b]pyrrole | C(C1=CC=CC=C1)N1[C@H]2[C@@H](CC1)CNC2 | C13H18N2
product | 8-((3aS,6aS)-1-benzylhexahydropyrrolo[3,4-b]pyrrol-5(1H)-yl)-3-(3-fluorophenylsulfonyl)quinoline | 0.157 g | C(C1=CC=CC=C1)N1[C@H]2[C@@H](CC1)CN(C2)C=2C=CC=C1C=C(C=NC21)S(=O)(=O)C2=CC(=CC=C2)F | C28H26FN3O2S
